US05834501
5-{4-(6-Bromo-3-methylimidazo[5,4-b]pyridin-2-yl-methoxy)benzyl}-3-triphenvlmethyl-thiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 1.35 g of 6-bromo-2-hydroxy-methyl-3-methylimidazo[5,4-b]pyridine (prepared as described in Preparation 59), 2.60 g of 5-(4-hydroxy-benzyl)-3-triphenylmethylthiazolidine-2,4-dione, 1.39 ml of tributylphosphine, 1.41 g of 1,1'-(azodicarbonyl)di-piperidine and 35 ml of toluene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.43 g of the title compound, melting at 97°-100° C. (softening).

reactant | 6-bromo-2-hydroxy-methyl-3-methylimidazo[5,4-b]pyridine | 1.35 g | BrC=1C=C2C(=NC1C)N(C(=N2)O)C | C8H8BrN3O
reactant | 5-(4-hydroxy-benzyl)-3-triphenylmethylthiazolidine-2,4-dione | 2.60 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 1.39 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)di-piperidine | 1.41 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-(6-Bromo-3-methylimidazo[5,4-b]pyridin-2-yl-methoxy)benzyl}-3-triphenvlmethyl-thiazolidine-2,4-dione | BrC=1C=C2C(=NC1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C37H29BrN4O3S
